US09303007B2
HATU (428 mg, 1.125 mmol) was added to a stirred solution of (1R,3S,5R)-3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane (212 mg, 0.865 mmol) and (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid (197 mg, 1.125 mmol) in DMF (3 mL) and DIPEA (1.2 mL, 6.9 mmol) and the reaction was stirred at rt overnight. The reaction was concentrated to dryness and then purified with a BIOTAGE® Horizon (25 g SiO2, 40-60% EtOAc/hexanes) to yield methyl (S)-3-methyl-1-oxo-1-((1R,3S,5R)-3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)butan-2-ylcarbamate (203 mg) as a yellow glass. LC-MS retention time 3.095 min; m/z 403.29 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, MeOD) δ ppm 7.17 (br. s., 1H), 5.04-5.11 (m, 1H), 4.54 (d, J=6.8 Hz, 1H), 3.65 (s, 3H), 3.54-3.61 (m, 1H), 2.82 (s, 1H), 2.39-2.50 (m, 1H), 2.27-2.36 (m, 1H), 2.04-2.15 (m, 1H), 1.94-2.04 (m, 1H), 1.11 (dt, J=8.7, 5.6 Hz, 1H), 0.95 (d, J=6.8 Hz, 3H), 0.90 (d, J=6.8 Hz, 3H), 0.73-0.79 (m, 1H), 0.21 (s, 9H).

reactant | HATU | 1.125 mmol, 428 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1R,3S,5R)-3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane | 0.865 mmol, 212 mg | C[Si](C)(C)C#CC1=CN=C(N1)[C@H]1N[C@@H]2C[C@@H]2C1 | C13H19N3Si
reactant | (S)-2-(methoxycarbonylamino)-3-methylbutanoic acid | 1.125 mmol, 197 mg | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | DIPEA | 6.9 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | methyl (S)-3-methyl-1-oxo-1-((1R,3S,5R)-3-(5-((trimethylsilyl)ethynyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)butan-2-ylcarbamate | 203 mg | CC([C@@H](C(N1[C@@H]2C[C@@H]2C[C@H]1C=1NC(=CN1)C#C[Si](C)(C)C)=O)NC(OC)=O)C | C20H30N4O3Si
